US04866091
A mixture of 2'-(2,4-difluorophenoxy)-4'-(methylthioacetyl)methanesulfonanilide (1.4 g) and m-chloroperbenzoic acid (1.4 g) in dichloromethane (15 ml) was stirred for 1 hour at room temperature. The mixture was washed with an aqueous solution of sodium bicarbonate and water, dried, and concentrated. The residue was recrystallized from ethyl acetate to give colorless crystals of 2'-(2,4-difluorophenoxy)-4'-(methylsulfonylacetyl)methanesulfonanilide (0.66 g), mp 162° to 163° C.

reactant | 2'-(2,4-difluorophenoxy)-4'-(methylthioacetyl)methanesulfonanilide | 1.4 g | FC1=C(OC2=C(NS(=O)(=O)C)C=CC(=C2)C(CC)=S)C=CC(=C1)F | C16H15F2NO3S2
reactant | m-chloroperbenzoic acid | 1.4 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 2'-(2,4-difluorophenoxy)-4'-(methylsulfonylacetyl)methanesulfonanilide | 0.66 g | FC1=C(OC2=C(NS(=O)(=O)C)C=CC(=C2)C(CS(=O)(=O)C)=O)C=CC(=C1)F | C16H15F2NO6S2
